### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Basic): Prove power_sum, power of an infinite sum

### PR DESCRIPTION
**Pull request by YnirPaz**
Prove `power_sum`, a generalization of `power_add` for `Cardinal.sum`.

---

For the proof I proved `induction_on_pi`, the cardinal version of `Quotient.induction_on_pi`.

For consistency in the cardinals library it should really be called `inductionOnₚᵢ`, but I'm willing to let that go.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 1]
```diff
@@ -917,6 +924,10 @@ def prod {ι : Type u} (f : ι → Cardinal) : Cardinal :=
 theorem mk_pi {ι : Type u} (α : ι → Type v) : #(∀ i, α i) = prod fun i => #(α i) :=
   mk_congr <| Equiv.piCongrRight fun _ => outMkEquiv.symm
 
+theorem mk_pi_eq {ι : Type u} {f g : ι → Type v} (h : ∀ i, #(f i) = #(g i)) :
+    #(Π i, f i) = #(Π i, g i) := by
+  simp_all only [mk_pi]
```
Comment (b-mehta) [inline Mathlib/SetTheory/Cardinal/Basic.lean:929]: I'm inclined to say this shouldn't be a lemma since it does indeed follow easily from `mk_pi`. But maybe there's a bounded quantification one which doesn't follow quite so easily - `#(Π i ∈ s, f i) = #(Π i ∈ s, g i)` (with `h` adjusted to also only be in `s`)? I'm not sure, what do you think?

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 2]
```diff
@@ -937,6 +948,18 @@ theorem prod_eq_zero {ι} (f : ι → Cardinal.{u}) : prod f = 0 ↔ ∃ i, f i
 
 theorem prod_ne_zero {ι} (f : ι → Cardinal) : prod f ≠ 0 ↔ ∀ i, f i ≠ 0 := by simp [prod_eq_zero]
 
+theorem power_sum {ι} (a : Cardinal) (f : ι → Cardinal) :
+    a ^ (sum f) = prod (fun i ↦ a ^ (f i)) :=
```
Comment (b-mehta) [inline Mathlib/SetTheory/Cardinal/Basic.lean:952]:
```suggestion
    a ^ sum f = prod fun i ↦ a ^ f i :=
```

**Review by b-mehta — COMMENTED** [review]
The main result here looks valuable - thanks for working on it - but I'm not sure about some of the others. @vihdzp, what do you think?

File: Mathlib/SetTheory/Cardinal/Basic.lean (hunk 1 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Basic.lean:929]: I like having these kinds of lemmas because in an actual use case `simp_all only [mk_pi]` won't reduce the goal this way, since it won't be this clean. Why not have this so you can easily tell lean exactly what it should do?
I'm usually leaning towards adding lemmas like this just to prevent cumulative clutter.

The generalization looks like a good idea, I'll add it.

Comment (b-mehta) [reply Mathlib/SetTheory/Cardinal/Basic.lean:929]: That's fair. Let's give it the name `mk_pi_congr` then.

**Comment by YnirPaz** [comment]
`mk_pi_congr_subtype` probably has a better name.

**Comment by vihdzp** [comment]
I like the `congr` results, I generally find this kind of stuff valuable. My request would be to have matching lemmas on `sum`.

**Comment by b-mehta** [comment]
True, making the `mk_sigma_congr` lemmas should be pretty easy and analogous to the `mk_pi` ones, but that can be an independent little PR

**Comment by YnirPaz** [comment]
> True, making the `mk_sigma_congr` lemmas should be pretty easy and analogous to the `mk_pi` ones, but that can be an independent little PR

This is #16824. Let me know what you think, there's a little weirdness with the subtype version because of notation differences between `Π` and `Σ`.

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 3]
```diff
@@ -130,6 +130,10 @@ theorem inductionOn₃ {p : Cardinal → Cardinal → Cardinal → Prop} (c₁ :
     (c₃ : Cardinal) (h : ∀ α β γ, p #α #β #γ) : p c₁ c₂ c₃ :=
   Quotient.inductionOn₃ c₁ c₂ c₃ h
 
+theorem induction_on_pi {ι : Type u} {p : (ι → Cardinal.{v}) → Prop}
+    (f : ι → Cardinal.{v}) (h : ∀ f : ι → Type v, p (fun i ↦ #(f i))) : p f :=
```
Comment (b-mehta) [inline Mathlib/SetTheory/Cardinal/Basic.lean:134]:
```suggestion
    (f : ι → Cardinal.{v}) (h : ∀ f : ι → Type v, p fun i ↦ #(f i)) : p f :=
```

**Review by b-mehta — APPROVED** [review]
bors d=@vihdzp

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 4]
```diff
@@ -937,6 +956,18 @@ theorem prod_eq_zero {ι} (f : ι → Cardinal.{u}) : prod f = 0 ↔ ∃ i, f i
 
 theorem prod_ne_zero {ι} (f : ι → Cardinal) : prod f ≠ 0 ↔ ∀ i, f i ≠ 0 := by simp [prod_eq_zero]
 
+theorem power_sum {ι} (a : Cardinal) (f : ι → Cardinal) :
+    a ^ sum f = prod fun i ↦ a ^ f i :=
+  inductionOn a fun α ↦ by
+    apply induction_on_pi f fun f ↦ ?_
+    rw [prod, sum, power_def]; simp_rw [power_def]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean:963]: Does this work?
```suggestion
    rw [prod, sum]
    simp_rw [power_def]
```

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 5]
```diff
@@ -917,6 +924,18 @@ def prod {ι : Type u} (f : ι → Cardinal) : Cardinal :=
...
+theorem mk_pi_congr {ι : Type u} {f g : ι → Type v} (h : ∀ i, #(f i) = #(g i)) :
+    #(Π i, f i) = #(Π i, g i) := by
+  simp_all only [mk_pi]
+
+theorem mk_pi_congr_subtype {ι : Type u} {f g : ι → Type v} {S : Set ι}
+    (h : ∀ i ∈ S, #(f i) = #(g i)) : #(Π i ∈ S, f i) = #(Π i ∈ S, g i) :=
+  have h' : Π i ∈ S, f i ≃ g i := fun i is ↦ Classical.choice <| Cardinal.eq.mp (h i is)
+  mk_congr
+  ⟨fun f' i is ↦ h' i is (f' i is) , fun g' i is ↦ (h' i is).symm (g' i is),
+  fun _ ↦ by simp only [Equiv.symm_apply_apply],
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean:936]: Can this `simp only` and the one below be replaced by `rw`?

Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Basic.lean:936]: I couldn't, the thing to prove is basically `Equiv.symm_apply_apply` inside a bunch of binders and lambdas, and after intoducing them all you need to at least `simp_rw` anyways because it's not in exactly the right form.

**Comment by YnirPaz** [comment]
I found `Equiv.piCongr` and `Equiv.sigmaCongr` which gives easier proofs. I also want to add versions where the indexing types are not the same but have an equivalence, like in these theorems. These more general versions can be in another commit (I'd like to have them both since the more general one is clumsy in cases where it's not needed) but I want to make sure the naming here won't clash with them.

If we add these more general versions, what should they be named? `mk_pi_congr'` is the only one I can think of, but it's obviously not great.

**Comment by eric-wieser** [comment]
I'm a ltitle suspicious of these congruence theorems for `Cardinal.mk`; usually I'd hope you can use a congruence construction for `Equiv` instead.

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 6]
```diff
@@ -937,6 +954,19 @@ theorem prod_eq_zero {ι} (f : ι → Cardinal.{u}) : prod f = 0 ↔ ∃ i, f i
...
+  inductionOn a fun α ↦ by
+    apply induction_on_pi f fun f ↦ ?_
+    rw [prod, sum]
+    simp_rw [power_def]
+    convert mk_sigma_arrow α f using 1
+    · exact mk_congr <| Equiv.arrowCongr
+        (Equiv.sigmaCongr (Equiv.cast rfl) (fun _ ↦ outMkEquiv)) (Equiv.refl α)
+    · apply mk_pi_congr
+      intro i
+      rw [mk_out]
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Basic.lean:968]: What do you think of this proof, which doesn't need any of the new `congr` lemmas?
```suggestion
    a ^ sum f = prod fun i ↦ a ^ f i := by
  induction a using Cardinal.inductionOn with | _ α => ?_
  induction f using induction_on_pi with | _ f =>
  simp_rw [prod, sum, power_def]
  apply mk_congr
  refine (Equiv.piCurry fun _ _ => α).trans ?_
  refine Equiv.piCongrRight fun b => ?_
  refine (Equiv.arrowCongr outMkEquiv (Equiv.refl α)).trans ?_
  exact (outMkEquiv).symm
```

I'd like to hear @b-mehta's thoughts on this before merging

Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Basic.lean]: I still like the congruency lemmas since I always want to have more ways to reason about cardinals without reasoning about `Equiv`'s, but I'll remove them if you disagree. @vihdzp what do you think?

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Basic.lean]: I'm compelled to agree. You don't usually see explicit equivalences when doing cardinal arithmetic after a certain point, instead you just use results like Cantor-Schröder to do all the heavy lifting. So being able to abstract that away is a good thing in my book.

Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Basic.lean]: I already commited the new proof, it's neat. I think I'll move all the congruency lemmas to #16824 to have all the versions in one place, now that they're not needed here.

**Comment by vihdzp** [comment]
Given that the congruence lemmas will be moved, and that everyone likes this new proof:

bors r+
